US06277862B1
(S)-N-(α-ethylbenzyl)-2-phenyl-3-(2-phthalimidoethoxy)quinoline-4-carboxamide
1.90 g (5.0 mmol) of (S)-N-(α-ethylbenzyl)-3-hydroxy-2-phenylquinoline-4-carboxamide (product of Description 1) were dissolved in 20 ml of THF. 3.80 g (14.9 mmol) of N-(2-bromoethyl)phthalimide dissolved in 15 ml of THF, 2.00 g (14.5 mmol) of K2CO3 and 0.25 g of KI were added and the suspension was stirred at room temperature for 2.5 hours and then refluxed for 2 hours. Additional 1.90 g (7.4 mmol) of N-(2-bromoethyl)phthalimide and a catalytic amount of KI were added and the reaction refluxed for 3.5 hours; additional 0.50 g (2.0 mmol) of N-(2-bromoethyl)phthalimide and a catalytic amount of KI were added and the reaction refluxed for 5 hours.

reactant | (S)-N-(α-ethylbenzyl)-3-hydroxy-2-phenylquinoline-4-carboxamide | 5.0 mmol, 1.90 g | C(C)[C@@H](C1=CC=CC=C1)NC(=O)C1=C(C(=NC2=CC=CC=C12)C1=CC=CC=C1)O | C25H22N2O2
reactant | N-(2-bromoethyl)phthalimide | 14.9 mmol, 3.80 g | BrCCN1C(C=2C(C1=O)=CC=CC2)=O | C10H8BrNO2
reactant | K2CO3 | 14.5 mmol, 2.00 g | C(=O)([O-])[O-].[K+].[K+]
reactant | N-(2-bromoethyl)phthalimide | 7.4 mmol, 1.90 g | BrCCN1C(C=2C(C1=O)=CC=CC2)=O | C10H8BrNO2
reactant | N-(2-bromoethyl)phthalimide | 2.0 mmol, 0.50 g | BrCCN1C(C=2C(C1=O)=CC=CC2)=O | C10H8BrNO2
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | (S)-N-(α-ethylbenzyl)-2-phenyl-3-(2-phthalimidoethoxy)quinoline-4-carboxamide | C(C)[C@@H](C1=CC=CC=C1)NC(=O)C1=C(C(=NC2=CC=CC=C12)C1=CC=CC=C1)OCCN1C(C=2C(C1=O)=CC=CC2)=O | C35H29N3O4
